US04609754
reaction of 2,6-dimethyl-5-methylene-1-hepten-4-ol with methyl aceto acetate in order to form 2,6-dimethyl-5-methylene-1-hepten-4-yl aceto acetate or, directly, 5-isopropyl-8-methyl-5,8-nonadiene-2-one;

reactant | 2,6-dimethyl-5-methylene-1-hepten-4-ol | CC(=C)CC(C(C(C)C)=C)O | C10H18O
reactant | methyl aceto acetate | C(CC(=O)C)(=O)OC | C5H8O3
product | 2,6-dimethyl-5-methylene-1-hepten-4-yl aceto acetate | C(CC(=O)C)(=O)OC(CC(=C)C)C(C(C)C)=C | C14H22O3
